US05066677
Methyl N-dimethylaminoethyl-N-methyloxamate hydrochloride (500 mg) was dissolved in water (20 ml) and the resulting solution was cooled on an ice bath under stirring. To this cooled solution was added dropwise a solution of sodium hydroxide (356 mg) in water (10 ml). After the completion of the addition, the ice bath was removed and the reaction solution was stirred at room temperature for further 1 hour and then adjusted the pH thereof to 4 with the addition of 1N aqueous HCl. The solvent was distilled off under a reduced pressure and the residue was dissolved in a small amount of water and subjected to chromatographic separation and purification on a resin,"Diaion IRA-400" ion-exchange resin using water 1N aqueous NCl as eluent. The eluates are distilled under a reduced pressure to remove the solvent, yielding N-dimethylaminoethyl-N-methyloxamic acid hydrochloride (395 mg) as a white power.

reactant | Methyl N-dimethylaminoethyl-N-methyloxamate hydrochloride | 500 mg | Cl.CN(C)CCN(C(C(=O)OC)=O)C
reactant | sodium hydroxide | 356 mg | [OH-].[Na+]
solvent | water | 20 ml | O | H2O
solvent | water | 10 ml | O | H2O
product | N-dimethylaminoethyl-N-methyloxamic acid hydrochloride | 395 mg | Cl.CN(C)CCN(C(C(=O)O)=O)C | InChI=1S/C7H14N2O3.ClH/c1-8(2)4-5-9(3)6(10)7(11)12;/h4-5H2,1-3H3,(H,11,12);1H
